Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
CP; transfer for cardiac catheterization
 
Major Surgical or Invasive Procedure:
cardiac cathererization with drug eluting stent to LIMA graft of 
Left anterior descending artery

 
History of Present Illness:
___ yo with hx of DM, CAD s/p CABG ___ redo ___, CHF (EF 51%) 
admitted to ___ on ___ with CP. His course was 
complicated by DTs ___ etoh w/d and he was intubated in the ICU. 
He was in normal healthy until the am of ___ when he 
experienced ___ substernal CP which was "squeezing" while 
watching TV.  It lasted for 30 minutes without associated 
radiation, SOB, nausea, diaphoresis, palpitations or 
lightheadedness.  He did not take medications for this incident. 
 After dinner he lies down normally for approx ___ hour but has 
noticed SOB when supine over the past week.  He has gained 30 
lbs over the last year.  He has had CP approximately 1X/year for 
which he usually takes Nitro.

Patient's history is currently more variable.  He reports CP the 
night prior to presentation for which he took SL Nitro X3. He 
had chest pain the next am which did not respond to Nitro.  He 
had assocaited nausea.  Patient notes that he had seizures 
during these episodes- as he gets seizures the more he drinks. 
However, he states that he has not had a drink in 3 weeks since 
he went to rehab 2 weeks ago after being given an ultamatum by 
his wife.

He went to the ED, and on the way experienced substernal chest 
squeezing, ___ which lasted a couple of minutes and resolved 
spontaneously. In the ED his VS were: 98.3, 92, 136/78, 92%/RA. 
His SBP dropped to 77 and he received 2L NS and ASA. 

He was initially started on high dose PPI given suspicion for 
reflux. 

The patient noted orthopnea and was found to be in respiratory 
distress.  He was admitted to the ICU with CHF and etoh 
withdrawal. He was agitated, tachycardic and hypertensive and 
then dyspneic with 3 inches of nitro paste, 120mg Lasix, 6mg IV 
ativan, 8mg IV morphine, 10mg IV lopressor.  He required 
intubation for hypoxemic respiratory failure as his RR was 45, 
he was sating 85% on NRB. He was treated while intubated with 
Versed and Fentanyl. He was treated with Unasyn for a question 
of aspiration pneumonia.  He was extubated on ___ with 
continued aggressive diuresis. 

He ruled in for a NSTEMI with Trops up to 1.5. 
He was intubated and admitted ot he ICU and extubated on ___.  
He was also requiring detox secondary to etoh abuse.

On ___ he had a Persantine stress with HR to the ___, <70% of 
target, with no ischemic EKG changes. APBs in receovery. 
Negative sxs for angina. Nuclear imaging revealed LVEF 51%, 
septal/inf wall and apical hypokineais with large mixed, 
primarily ischemic septal defect extending into the anterior 
wall. There was a mod/large inferior mixed, primaritly ischemic 
defect extending into a portion of the lateral wall with apical 
ischemia. There was a suggestion of LV dilation.

ROS negative for fevers or chills.  Positive for cough and 
sputum which is present more when he drinks. He has had dysuria 
since having the foley catheter at the OSH.
Cardiac review of systems is notable for absence of current 
chest pain. He does have dyspnea on exertion, orthopnea, ankle 
edema. Denies palpitations.
 
Past Medical History:
- CAD s/p cabg ___ with redo in ___ at ___ see OMR for 
complete graft information.
- ___: stent
- Diabetes diagnosed in ___
- CHF with EF 55%
- Hypercholesterolanemia
- ETOH abuse drinks a pint of whiskey a day DT's in the past
- Multiple falls 
- GERD 
- Anxiety/depression
- Obesity
- TIA ___ 
.  
TTE: EF 55% ___
 
Social History:
___
Family History:
Father died at ___ of CAD, Mother died at ___ of CAD.
 
Physical Exam:
VS -  98.1, 126/64, 18, 94%/RA
Gen: NAD. Oriented x3. Mood appropriate, affect inpatient and 
axious.  
HEENT: PERRL, EOMI. Conjunctiva were pink, no pallor or cyanosis 
of the oral mucosa.   
Neck: unable to assess JVP.
CV: RR, normal S1, ___ SEM. No S3 or S4.  
Chest: Resp were unlabored, no accessory muscle use. Shallow BS.
Abd: Soft, NTND. No HSM or tenderness. No femoral bruits.
Ext: 2+ b/l ___. 2+ DPs
Skin: significant erythema (chronic) anterior left shin; SCV 
line on right NT without erythema
 
Pertinent Results:
EKG compared to ___: NSR 84, NA, mild PR prelongation 
stable from prior, NL QRS, NL QTc, Q waves II, AvF new from 
prior, loss of R wave progression from prior

OSH:
___ UA: trace protein, large blood, neg nitrite, 119 RBC, 2 
WBC, <1 sq, few bacteria
___: ethyl etoh 193
___
Ca 8.8
.
CPK 82, MB 2.8, Index: 4.6
        MB 54.4
Trop I 0.09
       1.59 (unclear time or date)
.
Alb 3.6
.
5.7>35.9<155 (WBC peaked at 9.1 on ___
___ 14.1, INR 1.1, PTT 25.2
BNP 151
.
b/l ___ u/s: ___ no DVT bit valf levels not fully evaluated ___ 
edema
CXR: cardiomegaly with pulmonary vasculature congestion on ___ 
repeated on ___ which showed improvement in b/l pleural 
effusions. 
EKG: NSR 94 with septal infarct
.
sputum ctx: at OSH
blood ctx: at OSH
.
CXR ___: The uppermost and the lowest sternal wires are 
fractured and although a fragment of the lowest wire has 
migrated laterally, the alignment of the sutures is as expected 
and undisturbed. Lungs are clear. Heart is mildly enlarged. 
There is no appreciable pleural effusion. Right subclavian line 
tip is just above the junction of the brachiocephalic veins. No 
pneumothorax, mediastinal widening or pleural effusion.
.
Admission labs:
___ 06:46PM BLOOD WBC-6.8 RBC-3.41* Hgb-10.8* Hct-33.1* 
MCV-97 MCH-31.6 MCHC-32.6 RDW-13.4 Plt ___
___ 06:46PM BLOOD ___ PTT-26.7 ___
___ 06:46PM BLOOD Glucose-135* UreaN-14 Creat-1.1 Na-147* 
K-3.8 Cl-105 HCO3-30 AnGap-16
___ 06:46PM BLOOD CK(CPK)-115
___ 06:46PM BLOOD CK-MB-2 cTropnT-0.04*
___ 06:46PM BLOOD Calcium-9.2 Phos-2.7 Mg-1.8

___
Cardiac Catheterization: Selective coronary angiography in this 
right-dominant system demonstrated native three-vessel disease. 
The LMCA was occluded distally. The RCA had a proximal total 
occlusion.
2. Arterial conduit angiography revealed the LIMA->LAD to have 
80%
in-stent restenosis at the anastamosis.
3. Venous conduit angigoraphy revealed the SVG->diagonal branch 
to be
widely patent. The SVG->OM1 had 80% in-stent restenosis.
4. Resting hemodynamics revealed elevated left- and right-sided 
filling
pressures, with a PCWP of 34 mm Hg and an RA pressure of 12 mm 
Hg. There
was moderate pulmonary arterial hypertension with a PASP of 53 
mm Hg.
The cardiac index was preserved at 3.1 L/min/m2. The systemic 
arterial
blood pressure was normal. There was a 15 mm Hg gradient upon 
pullback
of the catheter from the left ventricle to the aorta.
5. Successful PCI of the ostial SVG-OM in-stent restenosis with 
a
3.0x15mm Promus DES, post-dilated to 3.25mm.
6. Successful closure of the right femoral arteriotomy site with 
a ___
Angioseal device.
FINAL DIAGNOSIS:    
1. Three-vessel native coronary artery disease.
2. Patent SVG->diagonal.
3. In-stent restenosis of the ostial SVG->OM stent and LIMA->LAD
anastamotic stent.
4. Severely elevated left- and right-sided filling pressures.
5. Moderate pulmonary arterial hypertension.
6. Successful PCI of the SVG-OM with DES.

___ TTE: The left atrium is moderately dilated. The right 
atrium is moderately dilated. Left ventricular wall thicknesses 
are normal. The left ventricular cavity is mildly dilated. There 
is moderate global left ventricular hypokinesis (LVEF = ___ 
%). The aortic valve leaflets are moderately thickened. There is 
mild aortic valve stenosis (valve area 1.2-1.9cm2). No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. Moderate (2+) mitral regurgitation is seen. The 
pulmonary artery systolic pressure could not be determined. 
There is an anterior space which most likely represents a fat 
pad. 
IMPRESSION: Suboptimal image quality. Left ventricular cavity 
enlargement with moderate global hypokinesis. Mild aortic valve 
stenosis. Moderate mitral regurgitation. 

___ CCATH: 1. Successful PCI of the ___-LAD ISR with a 
2.5x15mm Promus DES. 2. Successful closure of the left femoral 
arteriotomy site with a ___ Angioseal device. FINAL DIAGNOSIS: 1. 
Successful PCI of the LIMA-LAD with DES. 

___ CXR: As compared to the previous radiograph, the 
nasogastric tube has been removed. The left-sided intravenous 
access line is in unchanged 
position. Unchanged size of the cardiac silhouette, minimal 
increase in 
extent of the retrocardiac opacity caused by atelectasis. 
Otherwise, no 
relevant change. No newly occurred focal parenchymal opacities. 
No 
indication of pulmonary edema. 

 
Brief Hospital Course:
___ year-old male with history of CABG, DM, EtOH abuse, 
transfered for cardiac catheterization s/p stent to DES to 
LIMA-LAD, course complicated by respiratory failure requiring 
intubation.

#. Coronary artery disease: 
The patient had symptoms concerning for unstable angina and 
presented to an OSH. At that time he had a slight increase in 
cardiac enzymes. There were no EKGs from the outside hospital. 
The patient was maintained on aspirin, heparin gtt, high-dose 
atorvastatin, plavix and metoprolol tartrate. He had a cardiac 
catheterization the morning of admission finding in-stent 
restenosis of ostial SVG->OM stent and LIMA->LAD. The patient 
had a DES in the SVG-OM. The patient developed agitation in the 
cath suite and was transfered to the cardiac ICU for further 
monitoring. It was thought to be secondary to a paradoxical 
effect of the benzos he was given during the procedure. He was 
resent to the Cath lab and had a successful PCI of the LIMA-LAD 
with DES.  The patient was discharged on metoprolol tartrate, 
lisinopril, atorvastatin, aspirin and plavix. He had one episode 
of chest pain without EKG changes or cardiac enzyme elevations. 
He received 1mg of morphine which relieved his pain. He was 
hemodynamically stable at discharge. He should follow up with an 
outpatient cardiologist within 2 weeks of discharge.

#. Acute on chronic systolic heart failure and respiratory 
failure: 
A TTE was done which showed decreased EF of ___. The patient 
was intubated for hypoxemic respiratory failure. He was diuresed 
and quickly extubated to a BiPAP. He was quickly weaned to face 
mask and then 3L NC. He receieved an 8 day course of vancomycin 
and cefepime for ventilator associated pneumonia. He was weaned 
slowly off of oxygen and had no oxygen requirement upon 
discharge. The patient was discharged on diuretics with 
torsemide 30 mg daily. 

#. Delirium: 
The patient initially had both hypoactive and hyperactive 
delirium; hypoactive delirium resolved, but hyperactive delirium 
at night persisted for weeks with gradual resolution.  Initially 
it was thought to be secondary to paradoxical effect of benzos.  
Usual precautions were done including minimizing lines, frequent 
orientation, etc.  The patient was started on large standing 
doses of seroquel in the evening with an additional smaller 
morning doses. His QTc was not prolonged. He was followed by 
both geriatrics and psychiatry throughout his hospitalization. 
Despite an improvement in delirium the patient had persistent 
difficulty with behavioral control. Despite aggressive medical 
management the patient had continued difficulty. He was started 
on trazadone and seroquel with some improvement. His dose was 
changed to seroquel 25mg qAM, 100mg qHS and 25mg given at midday 
to attempt to prevent increased agitation in the late afternoon. 
He continues on trazodone 50mg qHS. Per psychiatry, pt should be 
wslowly weaned off the Seroquel but discontinuing the day time 
dose in about 2 weeks, then decrease the bedtime dose by 25 mg 
per week until off. 
.
#. Sinus tachycardia: 
The patient had sinus tachycardia. He was evaluated for 
potential pathological causes and none were found. The likely 
etiology was volume depletion and agitation. As the patient's 
delirium improved the tachycardia improved.

#. Nutrition: 
The patient required an NG tube for medications and tube feeds 
while in the ICU. The tube was removed and he was able to eat 
and take medications by mouth. Speech and swallow evaluated the 
patient was cleared for a full diet with supervision.

#. Diabetes mellitus: 
The patient was continued on insulin NPH at bedtime and in the 
morning as well as an insulin sliding scale. 

#. EtOH abuse: 
He was initially monitored on valium per CIWA scale. A social 
work consult was ordered. The patient showed no signs of 
withdrawal.

#. Hyperlipidemia: continued statin per above.

#. Hypertension: continued medications per above.

#. GERD: changed to H2 blocker from PPI as patient is now on 
plavix.

#. Code:  full code for this hospitalization.

 
Medications on Admission:
CURRENT MEDICATIONS: 
Home medications (per ___ which had contacted ___
Bumex 4mg daily
Ativan 1mg BID prn
Metolazone 2.5 mg twice a week
Insulin, 52U BID per patient
?Spironolactone 25mg daily not refilled since ___
ASA
Plavix
Gabapentin 600mg QHS
. 
Medications on transfer:
Prilosec 40mg daily
Heparin SC 5000U TID
Insulin NPH 20U BID before meals
Insulin s/s: 131-180 4 U, 181-240 8U, 241-300 10U, 301-350 12U, 
351-400 16U
Robitussin syrup
MOM 30ml daily
Senokot prn
Tyelnol ___ Q4H
Nitrostat 0.4mg prn
Mucomyst BID
ASA 81mg daily
Lipitor 80mg daily
OscalD 500mg BID
Plavix 75mg daily
Lasix 40mg daily
Neurontin 600mg daily HS
Lisinopril 2.5mg daily
Lopressor 25mg BID
MVI
 
Discharge Medications:
1. Heparin (Porcine) 5,000 unit/mL Solution Sig: 5000 (5000) 
units Injection TID (3 times a day).  
2. Atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily): Do not stop medicine or miss any doses for at least one 
year.  
4. Thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Torsemide 10 mg Tablet Sig: Three (3) Tablet PO once a day.  
6. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
7. Magnesium Hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO twice a day as needed for constipation.  
8. Atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
9. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

10. Polyvinyl Alcohol-Povidone 1.4-0.6 % Dropperette Sig: ___ 
Drops Ophthalmic PRN (as needed) as needed for dry eyes.  
11. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1) vial Inhalation Q6H (every 6 hours) as 
needed for wheezing, SOB.  
12. Ipratropium Bromide 0.02 % Solution Sig: One (1) vial 
Inhalation Q6H (every 6 hours) as needed for wheezing, SOB.  
13. Senna 8.6 mg Capsule Sig: ___ Tablets PO BID (2 times a day) 
as needed for constipation.  
14. Miconazole Nitrate 2 % Powder Sig: One (1) Appl Topical BID 
(2 times a day) as needed for redness in groin area.  
15. Quetiapine 25 mg Tablet Sig: One (1) Tablet PO QAM (once a 
day (in the morning)).  
16. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain, fever.  
17. Metoprolol Succinate 50 mg Tablet Sustained Release 24 hr 
Sig: 1.5 Tablet Sustained Release 24 hrs PO DAILY (Daily).  
18. Quetiapine 100 mg Tablet Sig: One (1) Tablet PO QHS (once a 
day (at bedtime)).  
19. Quetiapine 25 mg Tablet Sig: One (1) Tablet PO 1600 ().  
20. Trazodone 50 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
21. Humalog 100 unit/mL Solution Sig: as per sliding scale  
Subcutaneous four times a day.  
22. NPH Insulin Human Recomb 100 unit/mL Suspension Sig: Twenty 
Eight (28) units Subcutaneous before breakfast with Humalog.  
23. NPH Insulin Human Recomb 100 unit/mL Suspension Sig: Twenty 
Two (22) units Subcutaneous before dinner with Humalog.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Non ST Elevation Myocardial Infarction
Acute Delerium
diabetes Mellitus
Hypertension

 
Discharge Condition:
Mental Status:Confused - sometimes
Level of Consciousness:Alert and interactive
Activity Status:Ambulatory - requires assistance or aid (walker 
or cane)

 
Discharge Instructions:
You were admitted to the hospital because you had a heart 
attack. You received a drug eluting stent to one of your 
coronary arteries. It is extremely important that you take 
Plavix and aspirin every day for at least one year. Do not stop 
taking Plavix or aspirin unless Dr. ___ you to. 
You then became delerious and have been improving slowly, we 
have started new medicines to help you stay calm and oriented. 
.
Your heart function is weaker after the heart attack and you 
will need to take new medicines to help it pump better. 

You were treated also for a pneumonia with antibiotics. 

Weigh yourself every morning, call Dr. ___ weight goes 
up more than 3 lbs in 1 day or 6 pounds in 3 days once you are 
home. 
.
Medicaton changes:
1. Stop taking Pravastatin, Lorazepam, spironolactone,  
bumetanide, Klor con, Gabapentin, garlic, twice daily metoprolol 
and metolazone
2. Increase your aspirin to 325 mg daily to keep the stent open
3. Start using Clobetasol ointment for your back. 
4. Start using Torsemide daily to prevent fluid accumulation in 
your lungs
5. Start Seroquel to help you relax and keep your mind sharp. 
Your doctor ___ start tapering this medicine slowly in about 2 
weeks. 
6. Start taking Simvastatin to lower your cholesterol
7. Take the long acting Metoprolol to control your heart rate
8. Start taking Trazadone to help you sleep at night. 
 
Followup Instructions:
___